US05624950
To a solution of 14.5 g of 4-methyl-4-phenylcyclohex-2-enone and 24.45 cm3 of N-butoxymethyl-N-trimethylsilylmethylbenzylamine in 65 cm3 of dichloromethane are added, at a temperature of 25° C., 3 drops of trifluoroacetic acid. The reaction mixture is stirred at this temperature for 30 minutes and then heated to reflux for 2 hours. After cooling, 10 g of potassium carbonate are added, the mixture is stirred for 15 minutes and the solution is then filtered through a sinter funnel and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (particle size 0.04-0.06 mm, diameter 5 cm, height 39 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (80/20 by volume) and collecting 100 cm3 fractions. Fractions 8 to 30 are combined and concentrated to dryness under reduced pressure (2.7 kPa). 9 g of (3aRS,7SR,7aRS)-2-benzyl-7-methyl-7-phenyl-4-perhydroisoindolone are obtained in the form of a yellow oil.

reactant | 4-methyl-4-phenylcyclohex-2-enone | 14.5 g | CC1(C=CC(CC1)=O)C1=CC=CC=C1 | C13H14O
reactant | N-butoxymethyl-N-trimethylsilylmethylbenzylamine | 24.45 cm3 | C(CCC)OCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C16H29NOSi
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 65 cm3 | ClCCl | CH2Cl2
catalyst | trifluoroacetic acid | 3 drops | FC(C(=O)O)(F)F | C2HF3O2
product | (3aRS,7SR,7aRS)-2-benzyl-7-methyl-7-phenyl-4-perhydroisoindolone | 9 g | C(C1=CC=CC=C1)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C | C22H25NO
